US08053454B2
Step 1: N-(4-Bromo-2-cyanophenyl)thiophene-2-carboxamide:
To a solution of 2-amino-5-bromobenzonitrile (1 g, 5.1 mmol) in 20 mL of DCM, DIPEA (27.9 mmol, 5.5 eq.) was added followed by thiophene-2-carbonyl chloride (25.4 mmol, 5.0 eq.). The reaction was stirred at room temperature overnight. The organic solution of the crude reaction mixture was extracted twice with aqueous HCl (0.1 M), twice with aqueous sodium hydroxide (0.1 M), and once with a saturated aqueous solution of sodium chloride. The organic layer was dried with magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (silica gel, 20% EtOAc in hexane eluant) to afford 120 mg of N-(4-bromo-2-cyanophenyl)thiophene-2-carboxamide. MS (EI) for C12H7BrN2OS: 307 (M+H). Step 2: N-[4-Bromo-2-(1H-tetrazol-5-yl)phenyl]thiophene-2-carboxamide: To a mixture of the nitrile N-(4-bromo-2-cyanophenyl)thiophene-2-carboxamide (120 mg, 0.4 mmol), sodium azide (0.5 mmol, 1.3 eq.), and triethylamine hydrochloride (0.5 mmol, 1.3 eq.) in a sealed tube, 1 mL of toluene was added. The tube was tightly capped and the reaction was stirred and heated to 10° C. overnight. The mixture was cooled to room temperature, diluted with another 5 mL of toluene, transferred to a separatory funnel and washed 3×10 mL with water. The aqueous layer was collected and acidified to a pH of 4 with concentrated HCl. The solid was collected by filtration, washed with acetonitrile, and dried under vacuum to afford 18 mg of desired product. 1H-NMR (400 MHz, d6-DMSO): δ 11.60 (s, 1H), 8.44 (d, 1H), 8.23 (d, 1H), 7.99-7.95 (m, 21), 7.82 (dd, 1H), 7.33 (t, 1H). MS (EI) for C12H8BrN5OS: 350 (M+H).

reactant | N-[4-Bromo-2-(1H-tetrazol-5-yl)phenyl]thiophene-2-carboxamide | BrC1=CC(=C(C=C1)NC(=O)C=1SC=CC1)C1=NN=NN1 | C12H8BrN5OS
reactant | sodium azide | 0.5 mmol, 1.3 eq. | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 0.5 mmol, 1.3 eq. | Cl.C(C)N(CC)CC
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-Bromo-2-cyanophenyl)thiophene-2-carboxamide | 18 mg | BrC1=CC(=C(C=C1)NC(=O)C=1SC=CC1)C#N | C12H7BrN2OS
